US07601844B2
(R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-2-(pyridine-3-ylamino)butan-1-one
(R)-3-Methyl-2-(pyridine-3-ylamino)butanoic acid (162 mg, 0.83 mmol), (S)-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol (200 mg, 0.83 mmol), EDC (320 mg, 1.67 mmol), HOBT (113 mg, 0.83 mmol), DIPEA (431 mg, 3.34 mmol), and DMF (4 mL) was stirred overnight at rt. Example 607 was isolated as a greenish solid using preparative reverse phase HPLC (22.5 mg, 6.5% yield). M+H=416.18.

reactant | (R)-3-Methyl-2-(pyridine-3-ylamino)butanoic acid | 0.83 mmol, 162 mg | CC([C@H](C(=O)O)NC=1C=NC=CC1)C | C10H14N2O2
reactant | (S)-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol | 0.83 mmol, 200 mg | ClC1=CC=C(C=C1)[C@@]1(C(CNCC1)(C)C)O | C13H18ClNO
reactant | EDC | 1.67 mmol, 320 mg
reactant | HOBT | 0.83 mmol, 113 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 3.34 mmol, 431 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-2-(pyridine-3-ylamino)butan-1-one | 6.5% yield | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC=1C=NC=CC1)=O)(C)C)O | C23H30ClN3O2
